US07875639B2
5-(3-fluoro-benzyl)-3-(2-methoxyethyl)-3H-thiazol-2-ylidene-amine
A mixture of 5-(3-fluoro-benzyl)-thiazol-2-ylamine (330 mg, 1.59 mmol) and 2-bromoethyl methyl ether (0.50 mL, 5.34 mmol) was processed according to the method of Example 43A to afford the title compound: MS (LC/MS) m/z 267 (M+H)+.

reactant | 5-(3-fluoro-benzyl)-thiazol-2-ylamine | 1.59 mmol, 330 mg | FC=1C=C(CC2=CN=C(S2)N)C=CC1 | C10H9FN2S
reactant | 2-bromoethyl methyl ether | 5.34 mmol, 0.50 mL | COCCBr | C3H7BrO
product | 5-(3-fluoro-benzyl)-3-(2-methoxyethyl)-3H-thiazol-2-ylidene-amine | FC=1C=C(CC2=CN(C(S2)=N)CCOC)C=CC1 | C13H15FN2OS
